US08106190B2
Under an atmosphere of hydrogen and in ethanol, catalytic hydrogenation reaction of 2-(cyclohexylamino)-3-(trifluoromethyl)benzonitrile was carried out in the presence of Raney nickel to obtain 2-(aminomethyl)-N-cyclohexyl-6-(trifluoromethyl)aniline.

reactant | 2-(cyclohexylamino)-3-(trifluoromethyl)benzonitrile | C1(CCCCC1)NC1=C(C#N)C=CC=C1C(F)(F)F | C14H15F3N2
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 2-(aminomethyl)-N-cyclohexyl-6-(trifluoromethyl)aniline | NCC1=C(NC2CCCCC2)C(=CC=C1)C(F)(F)F | C14H19F3N2
